US04535086
20.2 g of 4,5,6,7-tetrahydro-α,4,4,7,7-pentamethylbenzo[b]thiophene-methanol are dissolved in 260 ml of acetonitrile and the solution is treated with 29.2 g of triphenylphosphonium bromide. After stirring at 50° C. for 3 hours, the mixture is evaporated to dryness, the residue is taken up with 80% aqueous ethanol and extracted twice with hexane. The ethanol phase is evaporated, the residue is dissolved in methylene chloride, the solution is dried over sodium sulphate and evaporated. There are obtained 49.4 g of [1-(4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thien-2-yl)ethyl]triphenylphosphonium bromide as an amorphous white powder.

reactant | 4,5,6,7-tetrahydro-α,4,4,7,7-pentamethylbenzo[b]thiophene-methanol | 20.2 g | CC(O)C1=CC2=C(S1)C(CCC2(C)C)(C)C | C14H22OS
reactant | triphenylphosphonium bromide | 29.2 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 260 ml | C(C)#N | C2H3N
product | [1-(4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thien-2-yl)ethyl]triphenylphosphonium bromide | 49.4 g | [Br-].CC1(CCC(C=2SC(=CC21)C(C)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(C)C)C | InChI=1S/C32H36PS.BrH/c1-24(29-23-28-30(34-29)32(4,5)22-21-31(28,2)3)33(25-15-9-6-10-16-25,26-17-11-7-12-18-26)27-19-13-8-14-20-27;/h6-20,23-24H,21-22H2,1-5H3;1H/q+1;/p-1
